Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / ampicillin / Bactrim / Ceclor / latex / Lorabid / 
Pediazole / Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, bloody diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of epilepsy,
autism spectrum disorder, who presented to the ___ for 
diarrhea
and BRBPR. Patient has multiple recent ED visits for abdominal
pain. 

On ___ she presented to ___ ED for 10 days of diffuse
abdominal pain, nausea, vomiting, watery diarrhea. She was
discharged from the ED after fluid resuscitation and Zofran
administration. She was also prescribed a 5 day course of
macrobid for a UTI.

On ___ she presented to ___ ED for abdominal pain and BRBPR.
She reports 2 medium volume episodes of bloody stool. Denies
lightheadedness, dizziness, chest pain, palipitations. She was
found to have scant guaiac positive stool in the rectal vault.
She had a Hgb of 13.9. She was discharged from the ED with the
recommendation to follow up with the GI clinic.

On ___, she saw GI, who recommended presentation to the ED. She
currently endorses abdominal pain of 4 day duration. Associated
with nausea, vomiting, watery and bloody diarrhea. Stooling up 
to
10 times daily. She is unable to tolerate PO. Endorses 
subjective
fevers and  chills. Denies chest pain, palpitations.

In the ED: Patient was tachycardic and started on IV fluids. 

Initial vital signs were notable for:
Temp 98.5 | HR 107 | BP 112/83 | RR 18 | SpO2 100% RA 

Exam notable for:
Tachycardia.
Tender abdomen in RUQ, LUQ, midepigastric regions
Heme negative stool.

Labs were notable for:
WBC 9.9 | Hgb 13.8 | Plt 314
Chem 7 WNL except for bicarb of 20
Coags WNL
UA positive for 7 WBCs, few bacteria, 17 epithelials

Studies performed include: None

Patient was given:
LR @125cc/hr
4mg IV Zofran x1
1000mg IV acetaminophen x1

Consults: None

Vitals on transfer:
Temp 98.0 | HR 87 | RR 16 | BP 107/70 | SpO2 100% RA

Upon arrival to the floor, she endorses nausea and abdominal
pain, somewhat alleviated by Zofran she received in ED. She
endorses some lightheadedness when she sits up.

 
Past Medical History:
-Depression. Patient has been hospitalized at least twice for
suicide attempt/suicidal ideation.
-Migraine headaches
-Autism
-Constipation
-History of abdominal wall infection in ___
-s/p breast reduction surgery
-ADHD
-Hypothyroidism
-Asthma
-History of sciatica
-Pseudotumor cerebri
 
Social History:
___
Family History:
Mother - CVA, HTN, glaucoma, thyroid d/o, GERD, arthritis, 
asthma
Grandmother - thyroid d/o
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
==========================
VITALS: Temp 98.2 | BP 120/83 | HR 91 | RR 16 | SpO2 98% RA  
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. EOMI. Sclera anicteric. Pink conjunctiva. Dry 
mucous
membranes.
CARDIAC: Normal rate and rhythm. Normal S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowel sounds. Soft, non distended. Tender to
palpation diffusely, worst in LUQ/epigastrium/RUQ. No rebound or
guarding. No organomegaly.
EXTREMITIES: Warm. No clubbing, cyanosis, or edema. Pulses
DP/Radial 2+ bilaterally.
NEUROLOGIC: AAOx3. Motor and sensory grossly symmetric and 
intact
throughout.

DISCHARGE PHYSICAL EXAM:
==========================
VITALS: 97.4 PO 98 / 69 114   100 ra
GEN: Awake, alert, no acute distress. High pitched voice, 
pleasant.
HEENT: NC/AT, EOMI, moist MM
CV: Normal rate, regular rhythm, no m/r/g appreciated
PULM: CTAB
Abd: Nontender, no rebound or guarding
Ext: WWP, no c/c/e
Neuro: AO x 3, moves all 4 extremities symmetrically and with 
purpose, normal gait
 
Pertinent Results:
LAB RESULTS ON ADMISSION:
=========================
___ 03:18PM BLOOD WBC-8.3 RBC-4.66 Hgb-13.9 Hct-39.8 MCV-85 
MCH-29.8 MCHC-34.9 RDW-14.4 RDWSD-43.9 Plt ___
___ 03:18PM BLOOD Neuts-56.6 ___ Monos-5.5 Eos-2.6 
Baso-0.4 Im ___ AbsNeut-4.71 AbsLymp-2.89 AbsMono-0.46 
AbsEos-0.22 AbsBaso-0.03
___ 03:18PM BLOOD ___ PTT-27.8 ___
___ 03:18PM BLOOD Glucose-92 UreaN-9 Creat-0.8 Na-144 K-4.1 
Cl-110* HCO3-19* AnGap-15
___ 06:16AM BLOOD ALT-12 AST-16 LD(LDH)-178 AlkPhos-66 
TotBili-0.4
___ 07:50AM BLOOD Lipase-40
___ 06:45AM BLOOD Calcium-9.1 Phos-2.8 Mg-1.9
___ 06:16AM BLOOD TSH-1.4
___ 06:16AM BLOOD CRP-13.7*
___ 06:16AM BLOOD SED RATE-6

DISCHARGE LABS:
================
___ 07:50AM BLOOD WBC-5.5 RBC-4.49 Hgb-13.2 Hct-38.4 MCV-86 
MCH-29.4 MCHC-34.4 RDW-13.8 RDWSD-43.1 Plt ___
___ 07:55AM BLOOD Glucose-79 UreaN-7 Creat-0.7 Na-142 K-4.2 
Cl-107 HCO3-21* AnGap-14
___ 07:50AM BLOOD ALT-18 AST-23 LD(LDH)-155 AlkPhos-77 
TotBili-0.3
___ 07:55AM BLOOD Calcium-9.1 Phos-2.8 Mg-1.7

MICROBIOLOGY:
=============
___ 10:09 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Pending): 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 
 
___ STOOL C. difficile PCR-FINAL NEGATIVE 
___ URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING:
========
CT A/P ___:
No acute process within the abdomen pelvis.  Specifically, no CT 
evidence of active inflammation in the small or large bowel.  If 
there is persistent clinical concern for inflammatory bowel 
disease, MR enterography on an outpatient basis would be more 
sensitive for assessment. 
 
Brief Hospital Course:
Ms. ___ is a ___ year old lady with past medical history 
most notable for gastroparesis and GERD, who presents with a 2 
week episode of diarrhea, initially watery then bloody, nausea, 
vomiting, and inability to keep down PO. Her other medical 
history is notable for autism spectrum disorder, and epilepsy.

# Bloody Diarrhea, likely infectious
Unclear if this represents acute diarrhea versus continuation of 
prior episode >2 weeks ago which would place her in the 
persistent diarrhea category. Initially had planned for 
inpatient colonoscopy, but she had no further episodes of 
diarrhea while in house. Spontaneous resolution suggests 
possible protracted gasteroenteritis of viral or bacterial 
etiology. Stool cultures were negative (though campylobacter 
pending on discharge). C diff was negative. CRP of 13 and ESR in 
normal range could be consistent with infectious process. CT A/P 
without evidence of enteritis or colitis, and, this, in 
conjunction with rapid improvement, lowers suspicion for IBD- 
although we note that study was without oral contrast. Ischemic 
colitis less likely given young age. At this time, yield of 
inpatient colonoscopy is low, and she will need to follow up 
with GI as an outpatient. Patient had 2 episodes of loose stool 
on day of discharge which was thought likely due to resuming a 
regular diet.

# Nausea, vomiting
# Gastroparesis Flare
Patient with known history of gastroparesis. Initially home 
erythromycin held, restarted on D1 of hospitalization, increased 
to BID on day of discharge. She required intermittent zofran for 
nausea and ultimately IV, then PO reglan, which she will 
continue at home for ___ days. At time of discharge she was 
advanced to a gastroparesis diet which she tolerated well. 

===============
CHRONIC ISSUES:
===============
# Asthma: Continued home albuterol. Home fluticasone furoate 
inhaler (non-formulary).
# Depression: Continued home aripirazole 20mg qhs, citalopram 
40mg qhs, quetiapine 100mg qhs 
# ADHD: Continue home Adderall XR 60mg daily
# Hypothyroidism: Continued home levothyroxine 75mcg daily, TSH 
1.4
# Chronic migraine: Held home naratriptan 1mg daily:PRN as 
nonformulary
# GERD: Continued home omeprazole 40mg daily, ranitidine 300mg 
qhs
# Seizure d/o: Continued home topiramate 100mg daily
# Allergic rhinitis: Continued home loratidine 10mg daily
# Chronic constipation: Held home docusate i/s/o diarrhea

TRANSITIONAL ISSUES:
====================
[] Follow up with GI as outpatient
[] F/u campylobacter stool culture
[] Increased erythromycin to 250 mg BID
[] We note that patient reports taking excedrin daily, which may 
contribute to medication overuse headache. The risk of this was 
discussed with patient. 
[] Note patient on multiple QTc prolonging medications; QTc at 
discharge 438

Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN Wheezing 
2. Albuterol 0.083% Neb Soln 1 NEB IH BID:PRN Wheezing 
3. ARIPiprazole 20 mg PO QHS 
4. Citalopram 40 mg PO QHS 
5. Apri (desogestrel-ethinyl estradiol) 0.15-0.03 mg oral DAILY 
6. Amphetamine-Dextroamphetamine XR 60 mg PO DAILY 
7. Erythromycin 250 mg PO QHS 
8. Arnuity Ellipta (fluticasone furoate) 100 mcg/actuation 
inhalation DAILY 
9. Levothyroxine Sodium 75 mcg PO DAILY 
10. Naproxen 500 mg PO BID:PRN Pain - Moderate 
11. naratriptan 1 mg oral DAILY:PRN 
12. Omeprazole 40 mg PO DAILY 
13. QUEtiapine Fumarate 100 mg PO QHS 
14. QUEtiapine Fumarate 25 mg PO DAILY:PRN emotional upset 
15. Topiramate (Topamax) 100 mg PO DAILY 
16. Ranitidine 300 mg PO QHS 
17. Docusate Sodium 100 mg PO DAILY 
18. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Metoclopramide 10 mg PO QIDACHS nausea Duration: 3 Days 
RX *metoclopramide HCl 10 mg 1 tablet by mouth before meals and 
bedtime Disp #*20 Tablet Refills:*0 
2.  Erythromycin 250 mg PO ___ AFTER BREAKFAST AND LUNCH 
RX *erythromycin 250 mg 1 tablet(s) by mouth after breakfast and 
lunch Disp #*60 Tablet Refills:*0 
3.  Albuterol 0.083% Neb Soln 1 NEB IH BID:PRN Wheezing  
4.  Albuterol Inhaler ___ PUFF IH Q4H:PRN Wheezing  
5.  Amphetamine-Dextroamphetamine XR 60 mg PO DAILY  
6.  Apri (desogestrel-ethinyl estradiol) 0.15-0.03 mg oral DAILY 
 
7.  ARIPiprazole 20 mg PO QHS  
8.  Arnuity Ellipta (fluticasone furoate) 100 mcg/actuation 
inhalation DAILY  
9.  Citalopram 40 mg PO QHS  
10.  Levothyroxine Sodium 75 mcg PO DAILY  
11.  Loratadine 10 mg PO DAILY  
12.  Naproxen 500 mg PO BID:PRN Pain - Moderate  
13.  naratriptan 1 mg oral DAILY:PRN migraine  
14.  Omeprazole 40 mg PO DAILY  
15.  QUEtiapine Fumarate 100 mg PO QHS  
16.  QUEtiapine Fumarate 25 mg PO DAILY:PRN emotional upset  
17.  Ranitidine 300 mg PO QHS  
18.  Topiramate (Topamax) 100 mg PO DAILY  
19. HELD- Docusate Sodium 100 mg PO DAILY  This medication was 
held. Do not restart Docusate Sodium until you stop having loose 
stools

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute diarrhea, likely infectious
Dehydration
Gastroparesis flare
Abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
You came to the hospital because you had frequent episodes of 
bloody diarrhea and you were unable to keep down food.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
You were seen by our GI doctors. ___ CT scan of your belly was 
performed which did not show any evidence of inflammatory bowel 
disease. You stopped having diarrhea, and you were able to 
tolerate food.
Our GI doctors thought about performing a colonoscopy, but as 
you improved on your own, this was not needed while you were 
hospitalized!

You started medicine to help with the gastroparesis and the 
stomach doctors ___ to schedule an appointment soon.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments. Specifically, you will need to follow up with the 
GI doctors.

___ wish you the best!

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___